US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(oxazol-2-ylmethyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with oxazol-2-ylmethanamine, the title compound was obtained as a colorless solid in 35% yield: 1H NMR (300 MHz, CDCl3) δ 7.63 (s, 1H), 7.31-7.24 (m, 2H), 7.09-7.00 (m, 3H), 6.34 (t, J=5.0 Hz, 1H), 6.12 (s, 1H), 4.71 (d, J=5.0 Hz, 2H), 4.44 (s, 2H), 3.84-3.76 (m, 2H), 3.47-3.40 (m, 2H), 2.50 (s, 3H); MS (ES+) m/z 437.1 (M+23).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | oxazol-2-ylmethanamine | O1C(=NC=C1)CN | C4H6N2O
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(oxazol-2-ylmethyl)thiophene-2-carboxamide | 35% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2OC=CN2)C)=O)C=C1 | C20H19FN4O3S
